US07576094B2
A solution of 2-cyclobutylidene-N-(4-methoxy-2,3-dimethylphenyl)acetamide (5 g) in methane sulfonic acid (20 mL) was refluxed at 120° C. overnight. After cooling down, the solution was poured onto ice. The solid present was collected by filtration and washed with water (×3), giving 6′-hydroxy-7′,8′-dimethyl-1′H-spiro[cyclobutane-1,4′-quinolin]-2′(3′H)-one (2.5 g) which was used in the next step without further purification. 1H-NMR (300 MHz, CDCl3) δ=6.8 (s, 1H); 3.37 (s, 1H); 2.64 (s, 2H); 2.43 (m, 3H); 2.16 (s, 6H); 2.07 (m, 3H) ppm. MS: (m/z)=232 (100, M+H+).

reactant | 2-cyclobutylidene-N-(4-methoxy-2,3-dimethylphenyl)acetamide | 5 g | C1(CCC1)=CC(=O)NC1=C(C(=C(C=C1)OC)C)C | C15H19NO2
solvent | methane sulfonic acid | 20 mL | CS(=O)(=O)O | CH4O3S
product | 6′-hydroxy-7′,8′-dimethyl-1′H-spiro[cyclobutane-1,4′-quinolin]-2′(3′H)-one | 2.5 g | OC=1C=C2C3(CC(NC2=C(C1C)C)=O)CCC3 | C14H17NO2
